* G:\SwCADIII\lib\sym\EXTRA\IRF\GATEDRV\IR2104.asc
.SUBCKT IR2104A VCC IN _SD com VB HO VS LO
D1 In Vcc Dd
D2 Com In Dd
D3 HO VB Dd
D4 VS HO Dd
D5 VS VB 25V
C2 VB HO 22p
C3 HO VS 22p Rpar=100k
S1 HO VB 4 0 SH
S2 HO VS 5 0 SL
A2 VB VS 0 0 0 0 3 0 SCHMITT Vt=8.9 Vh=.35
C1 In Com 10p Rpar=1e6
D6 Com VB 625V
D7 _SD Vcc Dd
D8 Com _SD Dd
A4 _SD Com 0 0 0 0 6 0 SCHMITT Vt=1.9 Vh=1 Trise=120n Tripdt=25n
A5 Vcc Com 0 0 0 0 7 0 SCHMITT Vt=8.9 Vh=.35
C4 _SD Com 10p Rpar=1e6
S3 LO Vcc 8 0 SH
S4 LO Com 9 0 SL
D9 LO Vcc Dd
D10 Com LO Dd
D11 Com Vcc 25V
C5 Vcc LO 22p
C6 LO Com 22p Rpar=100k
A3 3 1 0 6 7 5 4 0 AND Trise=100n Tripdt=20n
A6 7 6 0 2 0 9 8 0 AND Trise=100n Tripdt=20n
A1 In Com 0 0 0 2 1 0 SCHMITT Vt=1.9 Vh=1 Trise=1110n Tfall=100n Tripdt=50n
.model D D cjo=10f
.model 25V D(Ron=.5 Vfwd=.5 Vrev=25.2 Roff=25e4)
.model 625V D(Ron=.5 Vfwd=.5 Vrev=625 Roff=12e6)
.model Dd D(Ron=.5 Vfwd=.5)
.model SH SW(Vt=.5 Vh=-.5 Ron=42 Ilimit=.21)
.model SL SW(Vt=.5 Vh=-.5 Ron=20 Ilimit=.36)
.ends
